US04956375
Synthesis of 3-chloro-N-(1,1,3-trimethylindan-4-yl)pyrazine-2-carboxamide
A mixture of 0.5 g (3.57 mmols) of 3-hydroxypyrazine-2-carboxylic acid, 3 ml of phosphorus oxychloride, and one drop of pyridine was refluxed for 3 hours. The resultant reaction solution was distilled to remove excess phosphorus oxychloride. To the residue 5 ml of ethyl acetate was added. The solution was added dropwise to 10 ml of an ethyl acetate solution of 0.53 g (3 mmols) of 4-amino-1,1,3-trimethylindane and 0.4 g (3.96 mmols) of triethylamine. The resultant mixture was stirred at room temperature for 2 hours and then sequentially washed with water, sodium hydrogen carbonate, water, and a saturated brine. The washed solution was dried with magnesium sulfate and then concentrated under reduced pressure. The concentrated residue was separated and purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane =1/4), to obtain 0.58 g of light yellow crystals (Compound No. 10 shown in Table 5). The yield was 61%.

reactant | 3-hydroxypyrazine-2-carboxylic acid | 3.57 mmols, 0.5 g | OC=1C(=NC=CN1)C(=O)O | C5H4N2O3
reactant | phosphorus oxychloride | 3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-amino-1,1,3-trimethylindane | 3 mmols, 0.53 g | NC1=C2C(CC(C2=CC=C1)(C)C)C | C12H17N
reactant | triethylamine | 3.96 mmols, 0.4 g | C(C)N(CC)CC | C6H15N
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-chloro-N-(1,1,3-trimethylindan-4-yl)pyrazine-2-carboxamide | 0.58 g, yield was 61% | ClC=1C(=NC=CN1)C(=O)NC1=C2C(CC(C2=CC=C1)(C)C)C | C17H18ClN3O
